US08304419B2
Step C (Alternate Procedure): 2-({[(4-chloro-3-hydroxyphenyl)methyl]amino}carbonyl)benzoic acid
2-{[4-Chloro-3-(methyloxy)phenyl]methyl}-1H-isoindole-1,3(2H)-dione (7.0 g, 23 mmol) was dissolved in CH2Cl2 (25 mL) and cooled to 0° C. Boron tribromide (1.0 M sol., 46 mL) was added slowly then the solution was warmed to RT and stirred for 4 h. The reaction was cooled to 0° C. and ice water (100 mL) and EtOAc (200 mL) were added. The aqueous layer was separated and extracted with EtOAc (2×200 mL). The organic extracts were combined, dried over Na2SO4, filtered and evaporated. The solid was dissolved in EtOAc and washed with 1N NaOH. The aqueous layers were combined, acidified with 10% citric acid and extracted with EtOAc. The organic extracts were combined, dried over Na2SO4, filtered and evaporated to afford the title compound (3.0 g, 42%) as a tan solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 12.87 (br. s., 1H), 10.06 (s, 1H), 8.82 (t, 1H), 7.74 (d, 1H), 7.56 (dd, 1H), 7.47-7.54 (m, 1H), 7.45 (d, 1H), 7.23 (d, 1H), 6.94 (d, 1H), 6.80 (dd, 1H), 4.30 (d, 2H). MS: m/z 306.2 (M+1).

reactant | 2-{[4-Chloro-3-(methyloxy)phenyl]methyl}-1H-isoindole-1,3(2H)-dione | 23 mmol, 7.0 g | ClC1=C(C=C(C=C1)CN1C(C2=CC=CC=C2C1=O)=O)OC | C16H12ClNO3
reactant | Boron tribromide | 1.0 M, 46 mL | B(Br)(Br)Br | BBr3
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-({[(4-chloro-3-hydroxyphenyl)methyl]amino}carbonyl)benzoic acid | 3.0 g, 42% | ClC1=C(C=C(C=C1)CNC(=O)C1=C(C(=O)O)C=CC=C1)O | C15H12ClNO4
